US04876254
4-(6-Oxo-1,4,5,6-tetrahydropyridazin-3-yl)benzyl 4-(3-benzyloxyphenyl)-1,4-dihydro-2,6-dimethyl-5-nitropyridine-3-carboxylate
10 mmol of 3-benzyloxybenzaldehyde and 10 mmol of 4-(6-oxo-1,4,5,6-tetrahydropyridazin-3-yl)benzyl 3-aminocrotonate are heated at 60° C. for 8 hours in 30 ml of i-propanol, a total of 20 mmol of nitroacetone being added in portions. The product crystallizes after addition of a little petroleum ether and trituration. It is recrystallized from a little i-propanol.

reactant | 3-benzyloxybenzaldehyde | 10 mmol | C(C1=CC=CC=C1)OC=1C=C(C=O)C=CC1 | C14H12O2
reactant | 4-(6-oxo-1,4,5,6-tetrahydropyridazin-3-yl)benzyl 3-aminocrotonate | 10 mmol | N\C(=C/C(=O)OCC1=CC=C(C=C1)C1=NNC(CC1)=O)\C | C15H17N3O3
reactant | nitroacetone | 20 mmol | [N+](=O)([O-])CC(C)=O | C3H5NO3
solvent | i-propanol | 30 ml | C(C)(C)O | C3H8O
product | 4-(6-Oxo-1,4,5,6-tetrahydropyridazin-3-yl)benzyl 4-(3-benzyloxyphenyl)-1,4-dihydro-2,6-dimethyl-5-nitropyridine-3-carboxylate | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1C(=C(NC(=C1[N+](=O)[O-])C)C)C(=O)OCC1=CC=C(C=C1)C1=NNC(CC1)=O | C32H30N4O6
